US05120738
Preparation of N-(8-Oleoylaminooctyl)-3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propanamide
N-(8-Aminooctyl)oleamide (4.08 9) and 2.59 g of 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid were reacted in the same manner as in Example 1 to obtain 1.36 g of the title compound (yield: 21%).

reactant | N-(8-Aminooctyl)oleamide | NCCCCCCCCNC(CCCCCCC\C=C/CCCCCCCC)=O | C26H52N2O
reactant | 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid | 2.59 g | CC1(OCC(C(O1)C(=O)NCCC(=O)O)(C)C)C | C12H21NO5
product | N-(8-Oleoylaminooctyl)-3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propanamide | 1.36 g, yield: 21% | C(CCCCCCC\C=C/CCCCCCCC)(=O)NCCCCCCCCNC(CCNC(=O)C1OC(OCC1(C)C)(C)C)=O | C38H71N3O5
